US04786646
A solution of bis(4-fluorophenyl)diazomethane, prepared as above from the action of activated manganese dioxide (32.3 g) on 4,4'-difluorobenzophenone hydrazone (23.2 g) in dichloromethane (105 mL), was added to a solution of methacrolein (12.5 mL) in heptane (100 mL). The mixture was heated at 40° C. for 6 hours then the amber colored solution was evaporated in vacuo. The resulting solid was triturated with hexane (100 mL) to give 22.0 g of 2,2-bis(4-fluorophenyl)-1-methylcyclopropanecarboxaldehyde, mp 110°-113° C. Recrystallization of a sample from hexane provide the analytical specimen, mp 111°-113° C.

reactant | bis(4-fluorophenyl)diazomethane | FC1=CC=C(C=C1)C(=[N+]=[N-])C1=CC=C(C=C1)F | C13H8F2N2
reactant | methacrolein | 12.5 mL | O=CC(C)=C | C4H6O
solvent | dichloromethane | 105 mL | ClCCl | CH2Cl2
solvent | heptane | 100 mL | CCCCCCC | C7H16
catalyst | manganese dioxide | 32.3 g | [O-2].[O-2].[Mn+4]
product | 2,2-bis(4-fluorophenyl)-1-methylcyclopropanecarboxaldehyde | 22.0 g | FC1=CC=C(C=C1)C1(C(C1)(C=O)C)C1=CC=C(C=C1)F | C17H14F2O
